US03950528
3-Amino-1-(2-nitrobenzyl)-pyrazol-5-one ##SPC42##
47.8 g of o-nitrobenzylhydrazine were added dropwise, under nitrogen, to a solution of 45.5 g of β-amino-β-ethoxyacrylic acid ethyl ester and a pinch of p-toluenesulphonic acid in 200 ml of ethanol. After standing overnight, the solvent was distilled off in vacuo and the residue was treated with a 2:1 mixture of ether and ethanol. The compound identified above which thereupon precipitated was filtered off and recrystallised from ethanol. Melting point: 190°, 23 g (34%).

reactant | o-nitrobenzylhydrazine | 47.8 g | [N+](=O)([O-])C1=C(CNN)C=CC=C1 | C7H9N3O2
reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 45.5 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-Amino-1-(2-nitrobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=C(C=CC=C1)[N+](=O)[O-] | C10H10N4O3
